US04141901
A mixture of 5-chloro-2-[3-(N-carbobenzoxyaminomethyl)-5-chloromethyl-4H-1,2,4-triazol-4-yl]-benzophenone (0.995 g) and 30% hydrogen bromide-acetic acid (2 ml) is stirred at room temperature for 1.25 hours, and the mixture is washed with ether (50 ml) twice. The obtained free base is mixed with benzene (10 ml), acetyl chloride (0.5 g) and dimethylformamide (6 ml), and the resultant mixture is stirred at room temperature for 2 hours, and allowed to stand overnight. The reaction mixture is neutralized with aqueous sodium bicarbonate, and the precipitated crystals are filtered and washed with ether and chloroform in order to give 5-chloro-2-(3-acetamidomethyl-5-chloromethyl-4H-1,2,4-triazol-4-yl)-benzophenone (0.6 g) as crystals melting at 193° to 199° C. (decomp.).

reactant | 5-chloro-2-[3-(N-carbobenzoxyaminomethyl)-5-chloromethyl-4H-1,2,4-triazol-4-yl]-benzophenone | 0.995 g | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1CCl)CNC(=O)OCC1=CC=CC=C1 | C25H20Cl2N4O3
reactant | hydrogen bromide acetic acid | 2 ml | Br.C(C)(=O)O
product | 5-chloro-2-(3-acetamidomethyl-5-chloromethyl-4H-1,2,4-triazol-4-yl)-benzophenone | 0.6 g | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1CCl)CNC(C)=O | C19H16Cl2N4O2
